US07253208B2
Step 1 The preparation of 1,1,1,3,3,3-hexafluoro-2-methylpropan-2-yl 4-formylbenzoate
A mixture of 41.1 g (274 mmol) 4-carboxybenzaldehyde, 50 g (274 mmol) 1,1,1,3,3,3-hexafluoro-2-methyl-2-propanol, and 33.4 g (274 mmol) DMAP in 700 mL DCM was stirred until homogeneous (approximately 0.5 hr). The solution was cooled over an ice bath, under Ar, and 52.3 g (274 mmol) EDCI was added portion-wise. The reaction was stirred at RT for 48 hr. and concentrated to an oil on the rotovap. The oil was taken up with EA and washed with water, 2× with dil. Citric acid, 2× with dil. Sodium bicarbonate, and brine. The organic layer was dried over sodium sulfate and concentrated to 25.5 g pale yellow solid.

reactant | 4-carboxybenzaldehyde | 274 mmol, 41.1 g | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | 1,1,1,3,3,3-hexafluoro-2-methyl-2-propanol | 274 mmol, 50 g | FC(C(C(F)(F)F)(O)C)(F)F | C4H4F6O
reactant | EDCI | 274 mmol, 52.3 g | CCN=C=NCCCN(C)C | C8H17N3
catalyst | DMAP | 274 mmol, 33.4 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 700 mL | C(Cl)Cl | CH2Cl2
product | 1,1,1,3,3,3-hexafluoro-2-methylpropan-2-yl 4-formylbenzoate | C(=O)C1=CC=C(C(=O)OC(C(F)(F)F)(C(F)(F)F)C)C=C1 | C12H8F6O3
